US05591751
By using chloroacetyl chloride and 8-isopropyl-3,4-dihydrocarbostyril, there was obtained 6-chloroacetyl-8-isopropyl-3,4-dihydrocarbostyril as a white powder having a melting point of 224°-229° C.

reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | 8-isopropyl-3,4-dihydrocarbostyril | C(C)(C)C=1C=CC=C2CCC(NC12)=O | C12H15NO
product | 6-chloroacetyl-8-isopropyl-3,4-dihydrocarbostyril | ClCC(=O)C=1C=C2CCC(NC2=C(C1)C(C)C)=O | C14H16ClNO2
